US07205296B2
To a toluene solution (25 mL) of N-(4-methoxybenzyl)-4,5-difluoro-2-hydroxybenzamide (1.5 g, 5 mmol) was added paraformaldehyde (0.450 g, 15 mmol) and para-toluenesulfonic acid (0.01 g, 0.05 mmol) and the reaction heated to 110° C. for 3 hr with azeotropic removal of water. Saturated sodium bicarbonate (50 ml) was added and product extracted with ethyl acetate, dried over anhydrous sodium sulfate and concentrated to give 1.3 g (86%) of 3-(4-methoxybenzyl)6,7-difluor-2,3-dihydrobenzo[e][1,3]oxazin-4-one. RP-HPLC: 2.64 min; ES-MS (M+H)+=307.0; 1H-NMR (MeOH-d4) δ (ppm): 7.8 (dd, 1 H), 7.4 (d, 2 H), 6.8 (d, 2 H), 5.1 (s, 2 H), 4.6 (s, 2 H), 3.8 (s, 3 H).

reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
reactant | N-(4-methoxybenzyl)-4,5-difluoro-2-hydroxybenzamide | 5 mmol, 1.5 g | COC1=CC=C(CNC(C2=C(C=C(C(=C2)F)F)O)=O)C=C1 | C15H13F2NO3
reactant | paraformaldehyde | 15 mmol, 0.450 g | C=O | CH2O
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
catalyst | para-toluenesulfonic acid | 0.05 mmol, 0.01 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 3-(4-methoxybenzyl)6,7-difluor-2,3-dihydrobenzo[e][1,3]oxazin-4-one | 1.3 g, 86% | COC1=CC=C(CN2COC3=C(C2=O)C=C(C(=C3)F)F)C=C1 | C16H13F2NO3
